Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headache x3 days

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ presents to ___ ED c/o a frontal headache for the past
3 days which have not gotten any better with ibuprofen. Today 
she
experienced sharp pains on the frontal lobe. She also 
experienced
emesis this afternoon ___ prompted her to see her PCP today 
who
referred her to the ED for imaging. A CT scan was done which
shows a small right frontal 1.5 x 0.5 cm epidural hematoma. The
only recent trauma she reports was 10 days ago when one of the
special needs children she works with head butted her. She did
not have any immediate symptoms.

 
Past Medical History:
asthma, a spider bite, anxiety,
Osgood-Schlatter disease, depression, vaginal discomfort, ADHD,
rectal bleeding, UTI

 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
Temp 98.5, HR 64, BP 108/67, RR 18, O2 Sat 100% RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: ERRL EOMI
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4 to 3 mm
bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch bilaterally.

Reflexes: Patellar reflexes brisk b/l

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger, rapid alternating
movements, heel to shin
 
Pertinent Results:
___ 08:17PM   ___ PTT-27.1 ___
___ 05:00PM   GLUCOSE-98 UREA N-10 CREAT-0.7 SODIUM-138 
POTASSIUM-4.7 CHLORIDE-105 TOTAL CO2-26 ANION GAP-12
___ 05:00PM   estGFR-Using this
___ 05:00PM   HCG-<5 
___ 05:00PM   WBC-7.8 RBC-3.66* HGB-11.7* HCT-36.3 MCV-99* 
MCH-32.0 MCHC-32.3 RDW-12.0
___ 05:00PM   NEUTS-68.8 ___ MONOS-2.6 EOS-2.0 
BASOS-0.8
___ 05:00PM   PLT COUNT-255
___ 05:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
 
Brief Hospital Course:
The patient was admitted to the Neurosurgical Service for 
observation status post sustaining a small frontal epidural 
hematoma approximately 10 days prior to admission from head 
trauma NOS. Patiet did not require operative intervention but 
was admitted for observation. Her pain was controlled with oral 
pain medications and patient had good pain control and no nausea 
or vomiting.  

Patient did note abdominal pain overnight that was better in the 
morning. Patient continued to pass flatus and abdominal 
examination revealed an abdomen that was soft, minimally tender 
to palpation, and without rebound tenderness. She will need to 
have close follow-up regarding this pain with her primary care 
physician.

The patient was discharged in stable condition with written 
instructions concerning precautionary instructions and the 
appropriate follow-up care.  
 
Medications on Admission:
OCP, Albuterol PRN, Ativan PRN 

 
Discharge Medications:
1. levetiracetam 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*14 Tablet(s)* Refills:*0*
2. albuterol sulfate 90 mcg/actuation HFA Aerosol Inhaler Sig: 
One (1) Puff Inhalation Q6H (every 6 hours) as needed for 
wheeze.  
3. acetaminophen-codeine 300-30 mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain/headache: Please do not 
take more than 4 grams of acetaminophen during 24 hours. Do not 
drink or drive while on this medication.
Disp:*80 Tablet(s)* Refills:*0*
4. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*

___ continue all home medications
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small frontal epidural hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General Instructions
•Take your pain medicine as prescribed.
•Exercise as tolerated.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
•If you have been discharged on Keppra (Levetiracetam), you 
will not require blood work monitoring, please just finish your 
prescription.
•You may not drive while on narcotic medication.
•You may return to work when you feel well and able
•Regarding your abdominal pain, it will be important for your 
to follow-up with your primary care physician. Your abdominal 
exam was benign.


CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•Any signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
•Fever greater than or equal to 101° F.

 
Followup Instructions:
___